US07507743B2
3.1 (1-Aminocyclopentyl)acetonitrile
A solution of 15.91 g (0.15 mol) of cyclopentylideneacetonitrile in 170 ml of an aqueous ammonia solution (29%) and 57 ml of methanol was heated at 100° C. in a sealed tube for 24 h. The reaction mixture was concentrated, and the residue was chromatographed on silica gel eluting with a mixture of dichloromethane/methanol in the proportions 90/10 to afford 12.15 g of the product as a colorless oil.

reactant | cyclopentylideneacetonitrile | 0.15 mol, 15.91 g | C1(CCCC1)=CC#N | C7H9N
reactant | ammonia | 170 ml | N | H3N
solvent | methanol | 57 ml | CO | CH4O
product | (1-Aminocyclopentyl)acetonitrile | 12.15 g | NC1(CCCC1)CC#N | C7H12N2
